US06562989B2
N-(4-cyanophenyl)-N-methylaniline (Table 5, Entry 3)
According to the general procedure B, 4-chlorobenzonitrile (74 mg, 0.50 mmol) reacted with N-methylaniline (64 mg, 0.60 mmol) using 1 mol % of Pd(dba)2, 2 mol % of Ph5FcP(t-Bu)2, and sodium tert-butoxide (58 mg, 0.60 mmol) in toluene at 45° C. to give the title compound (102 mg, 91%): 1H-NMR(400 MHz, CDCl3): δ 7.47-7.39 (m, 4H), 7.28 (t, 1H), 7.21 (d, 2H), 6.74 (d, 2H, J=9.0 Hz), 3.36 (s, 3H). 13C{1H}-NMR (100 MHz, CDCl3): δ. GC/MS(EI): m/z 208 (M+), 192.

reactant | 4-chlorobenzonitrile | 0.50 mmol, 74 mg | ClC1=CC=C(C#N)C=C1 | C7H4ClN
reactant | N-methylaniline | 0.60 mmol, 64 mg | CNC1=CC=CC=C1 | C7H9N
reactant | sodium tert-butoxide | 0.60 mmol, 58 mg | CC(C)([O-])C.[Na+]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
catalyst | Pd(dba)2 | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd]
product | N-(4-cyanophenyl)-N-methylaniline | 102 mg, 91% | C(#N)C1=CC=C(C=C1)N(C1=CC=CC=C1)C | C14H12N2
